US05932571
Combine 2-chloro-1H-benzimidazole (21.1.4 g, 138.4 mmol) and dimethylformamide (200 mL). Add portionwise, sodium hydride (24.0 g, 60% in oil, 153.3 mmol). After 15 minutes, add 2-chloroethyl ethyl ether (21.9 g, 201,5 mmol). Heat to 60° C. After 18 hours, cool the reaction mixture and dilute with ethyl acetate. Extract with a saturated aqueous sodium bicarbonate solution, water, and then brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 10% ethyl acetate/hexane and then 30% ethyl acetate hexane to give the 2-chloro-1-(2-ethoxyethyl)-1H-benzimidazole: Rf =0.74 (silica gel, 7/3 ethyl acetate/hexane).

reactant | 2-chloro-1H-benzimidazole | 138.4 mmol | ClC1=NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 153.3 mmol, 24.0 g | [H-].[Na+]
reactant | 2-chloroethyl ethyl ether | 201,5 mmol, 21.9 g | C(C)OCCCl | C4H9ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | CCCCCC.C(C)(=O)OCC
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-chloro-1-(2-ethoxyethyl)-1H-benzimidazole | ClC1=NC2=C(N1CCOCC)C=CC=C2 | C11H13ClN2O
